US06087357
To a stirred mixture of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)-piperazine (250 mg), 2-methoxyphenylacetic acid (92 mg) and 1-hydroxybenzotriazole (75 mg) in dichloromethane (8 ml) was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (106 mg) at room temperature. After 3 hours, the reaction mixture was poured into aqueous sodium bicarbonate solution and extracted with dichloromethane. The extract was washed with brine and dried over magnesium sulfate. After evaporation of the solvent, the residue was purified by column chromatography on silica gel using ethyl acetate--n-hexane (1:1.5) as an eluent to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)-4-(2-methoxyphenylmethylcarbonyl)piperazine (290 mg) as a powder.

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)-piperazine | 250 mg | FC(C=1C=C(C(=O)N2[C@@H](CNCC2)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C22H19F6N3O
reactant | 2-methoxyphenylacetic acid | 92 mg | COC1=C(C=CC=C1)CC(=O)O | C9H10O3
reactant | 1-hydroxybenzotriazole | 75 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 106 mg | Cl.CN(CCCN=C=NCC)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)-4-(2-methoxyphenylmethylcarbonyl)piperazine | 290 mg | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)C(=O)CC2=C(C=CC=C2)OC)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C31H27F6N3O3
